US04888332
Preparation of 6-ethoxycarbonyl-2-mercapto-5-oxo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine
A mixture of 2-amino-5-mercapto-1,3,4-thiadiazole (6.7 g), diethyl ethoxymethylenemalonate (16.2 g) and dimethylformamide (80 ml) was refluxed for 16 hours. After removing the solvent by distillation under reduced pressure, the residue was recrystallized from methanol, giving 10.3 g of the objective compound as colorless crystals.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazole | 6.7 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | diethyl ethoxymethylenemalonate | 16.2 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 6-ethoxycarbonyl-2-mercapto-5-oxo-5H-1,3,4-thiadiazolo[3,2-a]pyrimidine | 10.3 g | C(C)OC(=O)C1=CN=C2N(C1=O)N=C(S2)S | C8H7N3O3S2
